US08022062B2
4-Aminomethyl-N-cycloheptyl-3-fluoro-benzamide:
Add 4-cyano-N-cycloheptyl-3-fluoro-benzamide (0.86 g, 3.3 mmol), 10% Pd/C (Degussa type E101, 250 mg), ethanol (25 mL), water (9 mL) and acetic acid (1 mL) to a pressure vessel under a nitrogen atmosphere. Pressurize the vessel to 50 psi with hydrogen, and stir the mixture for 0.5 h. Filter the mixture through Celite® and wash the cake with warm ethanol followed by dichloromethane under a nitrogen atmosphere. Concentrate the filtrate in vacuo to obtain the title compound as the acetic acid salt. Use SCX chromatography to obtain the title compound (805 mg, 92%). MS (ES+) m/z: 265.3 (M+H)+.

reactant | 4-cyano-N-cycloheptyl-3-fluoro-benzamide | 3.3 mmol, 0.86 g | C(#N)C1=C(C=C(C(=O)NC2CCCCCC2)C=C1)F | C15H17FN2O
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | water | 9 mL | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 250 mg | [Pd] | Pd
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 4-Aminomethyl-N-cycloheptyl-3-fluoro-benzamide | NCC1=C(C=C(C(=O)NC2CCCCCC2)C=C1)F | C15H21FN2O
